US05817671
5-(N-[2-methoxybenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.010 gm (0.044 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.008 mL (0.058 mMol) 2-methoxybenzoyl chloride, 0.006 gm (39%) of the title compound were prepared essentially by the procedure described in Example 7.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.044 mMol, 0.010 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 2-methoxybenzoyl chloride | 0.058 mMol, 0.008 mL | COC1=C(C(=O)Cl)C=CC=C1 | C8H7ClO2
product | 5-(N-[2-methoxybenzoyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.006 gm, 39% | COC1=C(C(=O)NC2=CC=C3C(=N2)C(=CN3)C3CCN(CC3)C)C=CC=C1 | C21H24N4O2
